US07494999B2
5-[4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-1H-indole (60 mg, 0.15 mmol), methyl bromo acetate (16 μL, 0.18 mmol) and cesium carbonate (95 mg, 0.29 mmol) were stirred in acetonitrile (10 ml) overnight at 70° C. The reaction mixture was diluted with ethyl acetate, washed with water, brine, dried (Na2SO4) and concentrated to provide {5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester (99%) as a yellow oil. 1H NMR (400 MHz, CDCl3) δ 8.11 (d, 1H) 7.60 (dd, 1H), 7.43 (d, 2H), 7.36 (d, 1H), 7.24 (d, 1H), 6.83 (d, 2H), 6.90 (d, 1H), 4.91 (s, 2H), 3.76 (s, 3H), 3.32-3.30 (m, 4H), 3.15-3.13 (m, 4H).

reactant | 5-[4-(4-Trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-1H-indole | 0.15 mmol, 60 mg | FC(C1=CC=C(C=C1)N1CCN(CC1)S(=O)(=O)C=1C=C2C=CNC2=CC1)(F)F | C19H18F3N3O2S
reactant | cesium carbonate | 0.29 mmol, 95 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | 10 ml | C(C)#N | C2H3N
product | {5-[4-(4-trifluoromethyl-phenyl)-piperazine-1-sulfonyl]-indol-1-yl}-acetic acid methyl ester | 99% | COC(CN1C=CC2=CC(=CC=C12)S(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)C(F)(F)F)=O | C22H22F3N3O4S
